US07759385B2
Dimethyl-(1-phenyl-4-piperidine-1-ylcyclohexyl)amine
Piperidine (400 μl, 4 mmole) and 4-dimethylamino-4-phenylcyclohexanone (434 mg, 2 mmole) were dissolved in dry 1,2-dichloroethane (10 ml). Glacial acetic acid (2 mmole) and sodium triacetoxy boron hydride (600 mg, 2.8 mmole) were added to this mixture and the whole was stirred for 24 hours at RT. The reaction mixture was worked up by distilling off the 1,2-dichloroethane and the mixture was adjusted to pH 11 with 5M NaOH. The alkaline phase was diluted with water (10 ml) and extracted with EE (3×20 ml). The organic phase was dried with Na2SO4 and concentrated by evaporation. Dimethyl-(1-phenyl-4-piperidine-1-ylcyclohexyl)-amine was purified by chromatography with ethanol. The non-polar diastereoisomer (15 mg) still contained impurities, which also could not be removed by further purification attempts. The polar diastereoisomer was obtained as a colourless oil in a yield of 92 mg (16%).

reactant | Piperidine | 4 mmole, 400 μl | N1CCCCC1 | C5H11N
reactant | 4-dimethylamino-4-phenylcyclohexanone | 2 mmole, 434 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 2 mmole | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | Dimethyl-(1-phenyl-4-piperidine-1-ylcyclohexyl)amine | CN(C1(CCC(CC1)N1CCCCC1)C1=CC=CC=C1)C | C19H30N2
